### PR TITLE
[Merged by Bors] - feat(FractionalIdeal): define `extended` as a ring homomorphism

### PR DESCRIPTION
**Pull request by xroblot**
Define `FractionalIdeal.extendedHom` as the ring hom version of `FractionalIdeal.extended` and `FractionalIdeal.extendedHomₐ` to be the special version from fractional ideals of A to fractional ideals of B where `A ⊆ B` is an extension of commutative domains, so it's the special case where `f := algebraMap A B`.

It is convenient to have both versions since, in the second version, the extra condition that the map must satisfied can be bundled.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 1]
```diff
@@ -40,7 +45,7 @@ variable (I : FractionalIdeal M K) (J : FractionalIdeal M K)
 /-- Given commutative rings `A` and `B` with respective localizations `IsLocalization M K` and
 `IsLocalization N L`, and a ring homomorphism `f : A →+* B` satisfying `M ≤ Submonoid.comap f N`, a
 fractional ideal `I` of `A` can be extended along `f` to a fractional ideal of `B`. -/
-def extended (I : FractionalIdeal M K) : FractionalIdeal N L where
+def extended₀ (I : FractionalIdeal M K) : FractionalIdeal N L where
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]: I am not a fan of the `₀` suffix. Could you directly upgrade this to a ring hom instead? I guess the proofs of the preservation are a bit long. Maybe name the ring hom `extendedHom` instead? Or `extend`?

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 2]
```diff
@@ -109,4 +114,28 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
...
+open scoped nonZeroDivisors
+
+variable (A K L B : Type*) [CommRing A] [IsDomain A] [CommRing B] [IsDomain B] [Algebra A B]
+  [Field K] [Field L] [Algebra A K] [Algebra B L] [IsFractionRing A K] [IsFractionRing B L]
+  [Algebra A B] [NoZeroSMulDivisors A B]
+
+/--
+The ring homomorphisme between that extends a fractional ideal of `A` to a fractional ideal of `B`.
+-/
+def extended : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L where
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Why does this take different arguments than the old `FractionalIdeal.extended`? Would it be useful to have two versions? One ring hom version of `FractionalIdeal.extended`? (Maybe just `FractionalIdeal.extend`) and one algebra version. The algebra version could be upgraded to an `A`-algebra hom and could be named `extendₐ`.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: It's true that `₀` suffix is not so great and I like your suggestion about having the ring hom called `extendedHom`

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Well, this is, as far as I can tell, the most obvious use of `FractionalIdeal.extended` is: lift a fractional ideal in an extension of fields which are fraction fields of Dedekind domains. In this case, the extra condition that the map `f` must satisfy for `FractionalIdeal.extended` to exists is automatically satisfied so I thought it would be nicer to have a special version of `FractionalIdeal.extended` for this case. I think making it an algHom and calling it `extendₐ` is a good idea.

Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Wait, I am a bit confused. There is no algebra structure on `FractionalIdeal A⁰ K` or am I missing something?

Comment (chrisflav) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Clearly, I am the one who was confused. Please ignore my suggestion on making it an algebra hom.

Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: It's too bad since I still need a good name for this version of `FractionalIdeal.extended` 😅

Comment (chrisflav) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: I would probably still have two versions, but now naming is harder. It could be:
- `FractionalIdeal.extendHomOfAlgebra` (too long?)
- `FractionalIdeal.extendHomₐ`?
- `FractionalIdeal.extendₐ`?

The latter two are probably misuse of the `ₐ` convention, but given that there can't be an algebra hom, it could be fine.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 3]
```diff
@@ -109,4 +114,34 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
   · rcases Set.mem_mul.mp h with ⟨y, ⟨i, hi, rfl⟩, z, ⟨j, hj, rfl⟩, rfl⟩
     exact Submodule.subset_span ⟨i * j, mul_mem_mul hi hj, by simp⟩
 
+/--
+The ring homomorphism version of `FractionalIdeal.extended`.
+-/
+def extendedHom : FractionalIdeal M K →+* FractionalIdeal N L where
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean:121]:
```suggestion
@[simps]
def extendedHom : FractionalIdeal M K →+* FractionalIdeal N L where
```

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 4]
```diff
@@ -109,4 +114,34 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
...
+
+variable (A K L B : Type*) [CommRing A] [IsDomain A] [CommRing B] [IsDomain B] [Algebra A B]
+  [Field K] [Field L] [Algebra A K] [Algebra B L] [IsFractionRing A K] [IsFractionRing B L]
+  [Algebra A B] [NoZeroSMulDivisors A B]
+
+/--
+The ring homomorphisme that extends a fractional ideal of `A` to a fractional ideal of `B` for
+`A ⊆ B` an extension of domains.
+-/
+def extendedₐ : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]:
```suggestion
def extendedHomₐ : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L :=
```
is at least what you write in the module docstring and what would be consistent with `extendedHom` above.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 5]
```diff
@@ -31,6 +34,8 @@ open IsLocalization FractionalIdeal Submodule
 
 namespace FractionalIdeal
 
+section Localization
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Just a nitpick, but this section name seems odd. How about:
```suggestion
section RingHom
```

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: In the end, I went with `FractionalIdeal.extendedHomₐ`. I know you prefer to use `extend` instead of `extended` but I want to be consistent and I don't feel confident enough to change everything (including the name of the file) from `extended` to `extend`.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Thanks for the review!

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 6]
```diff
@@ -109,4 +114,35 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
...
+
+end RingHom
+
+section Algebra
+
+open scoped nonZeroDivisors
+
+variable (A K L B : Type*) [CommRing A] [IsDomain A] [CommRing B] [IsDomain B] [Algebra A B]
+  [Field K] [Field L] [Algebra A K] [Algebra B L] [IsFractionRing A K] [IsFractionRing B L]
+  [Algebra A B] [NoZeroSMulDivisors A B]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]: There are two `[Algebra A B]`s here.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 7]
```diff
@@ -109,4 +114,35 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
...
+
+/--
+The ring homomorphisme that extends a fractional ideal of `A` to a fractional ideal of `B` for
+`A ⊆ B` an extension of domains.
+-/
+def extendedHomₐ : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L :=
+  have hs : A⁰ ≤ Submonoid.comap (algebraMap A B) B⁰ := fun _ hx ↦ by simpa using hx
+  extendedHom L hs
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]:
```suggestion
  extendedHom L (nonZeroDivisors_le_comap_nonZeroDivisors_of_injective _
    (FaithfulSMul.algebraMap_injective _ _))
```

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 8]
```diff
@@ -109,4 +114,35 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
...
+
+variable (A K L B : Type*) [CommRing A] [IsDomain A] [CommRing B] [IsDomain B] [Algebra A B]
+  [Field K] [Field L] [Algebra A K] [Algebra B L] [IsFractionRing A K] [IsFractionRing B L]
+  [Algebra A B] [NoZeroSMulDivisors A B]
+
+/--
+The ring homomorphisme that extends a fractional ideal of `A` to a fractional ideal of `B` for
+`A ⊆ B` an extension of domains.
+-/
+def extendedHomₐ : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]:
```suggestion
@[simps]
def extendedHomₐ : FractionalIdeal A⁰ K →+* FractionalIdeal B⁰ L :=
```
or make it even an `abbrev`.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Oops. Fixed.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean]: Yes, that's a good idea.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
